US04420424
(A) Boc-Val-Lys(Z)-OMe
4.35 g of Boc-Val-OH and 6.6 g of H-Lys(Z)-OMe.HCl are subjected to a condensation reaction with 4.4 g of DCC in 50 ml of CH2Cl2, with the addition of 2.7 g of HOBt and 2.6 ml of N-ethylmorpholine (NEM). After filtering the mixture, the solvent is removed by distillation. The residue is taken up in ethyl acetate, washed successively with 2 N acetic acid, 1 M sodium bicarbonate and water and dried over sodium sulfate and, after removing the ethyl acetate by distillation, is recrystallized from diisopropyl ether. Yield 3.5 g, melting point 100°-102°, elementary analysis (C, H and N) correct.

reactant | Boc-Val-OH | 4.35 g | N([C@@H](C(C)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO4
reactant | H-Lys(Z)-OMe.HCl | 6.6 g | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC.Cl
reactant | DCC | 4.4 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 2.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 2.6 ml | C(C)N1CCOCC1 | C6H13NO
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | Boc-Val-Lys(Z)-OMe | N([C@@H](C(C)C)C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C25H39N3O7
